* TS3A24159 - Dual SPDT 0.3 ohm analog switch - BEHAVIORAL MODEL (ngspice)
*
* TI only publishes an encrypted HSPICE model (SCDM119) for this part, which
* ngspice cannot read, so this is a hand-written behavioral model built from
* the datasheet (SCDS238H, Aug 2022), 3 V supply, 25 C typical values:
*   ron          0.26 ohm (VCC = 2.7 V)
*   C(OFF) NO/NC 90 pF,  C(ON) NO/NC 224 pF,  C(ON) COM 250 pF
*   CI (IN pin)  2 pF
*   VIH 1.4 V min, VIL 0.5 V max  -> switching centred around ~1 V
*   tON 20 ns typ, break-before-make
*   Function: IN = L -> COM-NC on, IN = H -> COM-NO on
*
* Modelled: on resistance, off isolation (Roff), terminal capacitances,
* control thresholds, ~20 ns switching with break-before-make.
* Not modelled: ron vs signal voltage/VCC/temperature, leakage, charge
* injection, THD, ESD diodes, supply-dependent behaviour.
*
* Pin order = physical DRC/DGS pin numbers, so KiCad's TS3A24159DRC symbol
* maps 1:1:
*   1 VCC  2 NO1  3 COM1  4 IN1  5 NC1  6 GND  7 NC2  8 IN2  9 COM2  10 NO2
* TS3A24159_PAD adds pin 11 (thermal pad, tied to GND through 1 mohm).

.SUBCKT TS3A24159 VCC NO1 COM1 IN1 NC1 GND NC2 IN2 COM2 NO2
+ PARAMS: RON=0.26 ROFF=1G
X1 COM1 NO1 NC1 IN1 GND TS3A24159_CH PARAMS: RON={RON} ROFF={ROFF}
X2 COM2 NO2 NC2 IN2 GND TS3A24159_CH PARAMS: RON={RON} ROFF={ROFF}
* ~15 nA typical supply current
RVCC VCC GND 220MEG
.ENDS TS3A24159

.SUBCKT TS3A24159_PAD VCC NO1 COM1 IN1 NC1 GND NC2 IN2 COM2 NO2 PAD
+ PARAMS: RON=0.26 ROFF=1G
XSW VCC NO1 COM1 IN1 NC1 GND NC2 IN2 COM2 NO2 TS3A24159 PARAMS: RON={RON} ROFF={ROFF}
RPAD PAD GND 1m
.ENDS TS3A24159_PAD

* One SPDT channel
.SUBCKT TS3A24159_CH COM NO NC IN GND
+ PARAMS: RON=0.26 ROFF=1G
* Control input: 2 pF pin capacitance, then an RC (tau = 20 ns) that sets
* the switching delay.
CIN IN GND 2p
EBUF INB GND IN GND 1
RDLY INB CTL 10k
CDLY CTL GND 2p
* Break-before-make: NC opens at CTL > 0.8 V, NO closes at CTL > 1.1 V,
* so the delayed control edge always opens one side before closing the other.
SNO COM NO  CTL GND SW_NO
SNC COM NC  GND CTL SW_NC
* Terminal capacitances to ground (NO/NC off = 90 pF, NO/NC on ~ 90 + 145 pF,
* COM on ~ 145 + 90 pF, vs. datasheet 224 / 250 pF)
CNO  NO  GND 90p
CNC  NC  GND 90p
CCOM COM GND 145p
.MODEL SW_NO SW (VT=1.1  VH=0.01 RON={RON} ROFF={ROFF})
.MODEL SW_NC SW (VT=-0.8 VH=0.01 RON={RON} ROFF={ROFF})
.ENDS TS3A24159_CH
